US04437878
20 parts by weight of methyl 3-keto-1,5-dihydrothiophene-4-carboxylate, 57.8 parts by weight of ethanol and 1 part by weight of p-toluenesulfonic acid are refluxed for 50 hours, and the mixture is then distilled. 17.1 parts by weight of ethyl 3-keto-1,5-dihydrothiophene-4-carboxylate of melting point 106°-109° C./1.3 mbar are obtained.

reactant | methyl 3-keto-1,5-dihydrothiophene-4-carboxylate | O=C1CSCC1C(=O)OC | C6H8O3S
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | C(C)O | C2H6O
product | ethyl 3-keto-1,5-dihydrothiophene-4-carboxylate | O=C1CSCC1C(=O)OCC | C7H10O3S
